US07384967B2
4-(2-{2-[3-(2-Cyclopentanecarbonyl-4-methylphenyl)-ureido]-thiazol-4-yl}-acetyl)-1-methyl-piperazine (337 mg) is prepared from 2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)ureido]-thiazol-4-ylacetic acid (386 mg, 1.0 mmol) and N-methylpiperazine following the general procedure K.

reactant | 2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)ureido]-thiazol-4-ylacetic acid | 1.0 mmol, 386 mg | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CC(=O)O)=O | C19H21N3O4S
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 4-(2-{2-[3-(2-Cyclopentanecarbonyl-4-methylphenyl)-ureido]-thiazol-4-yl}-acetyl)-1-methyl-piperazine | 337 mg | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CC(=O)N1CCN(CC1)C)=O | C24H31N5O3S
